US05885986
A solution of 3.10 g (0.00992 mol) of (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]-diazepine-1-carboxylic acid prop-2-ynylamide in 60 ml of acetic acid was treated with 3.35 g (0.0149 mol) of N-iodosuccinimide while gassing with argon. After stirring at room temperature for 24 hrs. the dark suspension obtained was completely freed from the solvents and dried azeotropically several times with toluene. The dark residue was dissolved in 60 ml of THF, treated with 7.1 ml (0.0863 mol) of propylamine and stirred at room temperature for 6 hrs. The suspension obtained was completely freed from the solvents, the residue was partitioned between ethyl acetate and 1N aqueous hydrochloric acid and extracted. The aqueous-acidic phase was made basic and extracted with ethyl acetate. The organic phase was concentrated and the dark product was chromatographed over silica gel which dichloromethane/methanol 49:1 as the eluent. There was obtained 0.29 g (8%) of (S)-1-(5-propylaminomethyl-oxazol-2-yl)-11,11 a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one as yellowish crystals; m.p. 145°-147°.

reactant | (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]-diazepine-1-carboxylic acid prop-2-ynylamide | 0.00992 mol, 3.10 g | C(C#C)NC(=O)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C15H12N4O2S
reactant | N-iodosuccinimide | 0.0149 mol, 3.35 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | propylamine | 0.0863 mol, 7.1 ml | C(CC)N | C3H9N
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | (S)-1-(5-propylaminomethyl-oxazol-2-yl)-11,11 a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 0.29 g, 8% | C(CC)NCC1=CN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C18H19N5O2S
